US04042706
2.4 gm. of 4-(4-aminophenyl)-1-phenyl-3-pyrazolecarboxylic acid ethyl ester are reacted with 28 ml. of 1N hydrochloric acid, cooled to 0° C. and slowly diazotized with a solution of 830 mg. of sodium nitrite in 10 ml. of water. The mixture is diluted with 10 ml. of water and stirred for 15 minutes at 0° C. Thereupon, 953 mg. of zinc chloride are added to the mixture, which is allowed to stand for 30 minutes. The separated precipitate is filtered under vacuum, dried and taken up in 50 ml. of methanol and allowed to stand at room temperature for 16 hours, and then is heated for one hour under reflux. The reaction mixture is concentrated under vacuum and the residue is dissolved in benzene. The benzene phase is washed and concentrated in vacuum. The residue is reacted with 2 equivalents of sodium hydroxide and 2.02 g. of dimethyl sulfate and heated at 80° C. for 30 minutes. After cooling, the mixture is extracted with methylene chloride, the organic phase is concentrated and the residue is recrystallized from isopropanol. 1.92 g. of 4-(4-methoxyphenyl)-1-phenyl-3-pyrazolecarboxylic acid ethyl ester with a melting point of 94° C., is obtained.

reactant | 4-(4-aminophenyl)-1-phenyl-3-pyrazolecarboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C=C1C1=CC=C(C=C1)N)C1=CC=CC=C1 | C18H17N3O2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 2 equivalents | [OH-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 4-(4-methoxyphenyl)-1-phenyl-3-pyrazolecarboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C=C1C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C19H18N2O3
